* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM8068
*BIPOLAR OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM8068 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm8068_s
X2 +IN2 -IN2 V+ V- OUT2 njm8068_s
.ENDS NJM8068
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm8068_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
Q1 11 2 13 PNP1 
Q2 12 1 14 PNP2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 21 4 {VRC}
VRC2 22 4 {VRC}
RE2 10 14 {RE1}
RE1 10 13 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 2.62E-30)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)

.MODEL PNP1 PNP(TREF = 25 IS = 8.00E-16 BF = 1581.158594)
.MODEL PNP2 PNP(TREF = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1   = 1.35E-10
+ C2   = 1.21E-10
+ CE   = 0.00E+00
+ GCM  = 3.04E-08
+ GA   = 9.63E-03
+ GB   = 28.85
+ GC   = 1.23E+05
+ ITL  = 8.33E-04
+ RC1  = 103.87
+ RC   = 8.12E-06
+ RE1  = 42.12
+ RE   = 2.40E+05
+ RO1  = 39
+ RO2  = 36
+ RP   = 4.78E+04
+ VC   = 2.30962
+ VE   = 2.30963
+ VTL  = 1.52E+00
+ VRC  = 1.85
+ ICE  = 1.5E-3
+ ISM2 = 8.0925367E-16
+ BFM2 = 1621.187926

.ends njm8068_s
*$
