* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM844
*BIPOLAR OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM844 OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 V- +IN4 -IN4 OUT4
X1 +IN1 -IN1 V+ V- OUT1 njm844_s
X2 +IN2 -IN2 V+ V- OUT2 njm844_s
X3 +IN3 -IN3 V+ V- OUT3 njm844_s
X4 +IN4 -IN4 V+ V- OUT4 njm844_s
.ENDS NJM844
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm844_s 1 2 3 4 5
C1 11 12 {C1}
C2 6 7 {C2}
CE 10 0 {CE}
D1 7 17 DMOD1
D2 17 7 DMOD1
DC 5 18 DMOD2
DE 19 5 DMOD2
GA 6 0 11 12 {GA}
GB 7 0 6 0 {GB}
GC 0 17 5 0 {GC}
GCM 0 6 10 0 {GCM}
ITL 3 10 {ITL}
Q1 11 2 13 Q1
Q2 12 1 14 Q2 
RO1 7 5 {RO1}
RC 17 0 {RC}
RO2 7 0 {RO2}
R2 6 0 100E3
RC1 11 4 {RC1}
RC2 12 4 {RC2}
RE1 10 13 {RE2}
RE2 10 14 {RE1}
REE 10 0 {REE}
RP 3 4 {RP}
VE 19 4 {VE}
VC 3 18 {VC}
.MODEL DMOD1 D (T_MEASURED = 25 IS = 1.78E-22)
.MODEL DMOD2 D (T_MEASURED = 25 IS = 5.85E-16)
.MODEL Q1 PNP (T_MEASURED = 25 IS = 5.85E-16 BF = 268.7368578)
.MODEL Q2 PNP (T_MEASURED = 25 IS = {ISQ2} BF = {BFQ2})
.PARAM
+ C1=	7.93E-13
+ C2=	9.00E-12
+ CE=	1.71E-12
+ GCM=	1.9792E-08
+ GA=	1.9792E-04
+ GB=	639.10
+ GC=	3.66E+05
+ ITL=	8.63E-05
+ RC1=	5052.54
+ RC2=	5052.54
+ RC=	2.73E-06
+ RE1=	4221.49
+ RE2=	4221.49
+ REE=	3.48E+05
+ RO1=	50
+ RO2=	25
+ RP=	3.197E+03
+ VC=	1.8071
+ VE=	0.808930672
+ ISQ2=	5.8837644E-16
+ BFQ2=	279.2743352
.ends njm844_s
*$
