* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM8502
*JFET OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJM8502 OUT1 -IN1 +IN1  V- +IN2 -IN2 OUT2 V+
X_U1 +IN1 -IN1 V+ V- OUT1 NJM8502_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJM8502_s
.ends NJM8502
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJM8502_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}
.MODEL DMOD1 D(T_MEASURED= 25 IS= 1.12E-30)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1   = 1.0075E-12
+ C2   = 1.9685E-12
+ CS   = 0.00E+00
+ GCM  = 4.32E-10
+ GA   = 1.135E-04
+ GB   = 204.96
+ GC   = 52551.46769
+ ITL  = 5.00E-05
+ RD1  = 9223.37
+ RD2  = 9223.37
+ RC   = 1.90E-05
+ RS1  = 1325.77
+ RS2  = 1325.77
+ RO1  = 30
+ RO2  = 45
+ RP   = 5.00E+04
+ VD   = 1.61886
+ VS   = 0.91881
+ VOS  = 7.6332945E-05
+ IDS  = 2.2E-3
+ VTL  = 2.22E+00
+ VRD  = 2.75E+00
+ L_VAL= 8.00E-07
+ W_VAL= 6.40E-06
.ends NJM8502_s
*$
